US05639786
(ii) 5-(Acetylamino)-4-[[amino(nitroimino)methyl]amino]-2,6-anhydro-3,4,5-trideoxy-D-glycero-D-galacto-non-2-enonic acid
5-(Acetylamino)-4-amino-2,6-anhydro-3,4,5-trideoxy-D-glycero-D-galacto-non-2-enonic acid (200 mg, 0.689 mmol) was dissolved in absolute methanol (2.7 ml) by the addition of triethylamine (0.098 ml, 0.690 mmol). 2-Methyl-1-nitro-2-thiopseudourea (103 mg,0.757 mmol) was then added. The mixture was warmed to 40° C. with stirring under nitrogen for 2hrs, then stirred at 21° C. for 16 hr. The addition of reagent and heating and stirring was repeated twice more. The cooled mixture was then filtered and the white solid washed with methanol. Combined filtrate and washings were evaporated and the residue purified by ion exchange chromatography (Dowex 50 W×8(H+) resin, eluting with water. Appropriate fractions were combined and freeze dried. The residue was triturated with warm water (4 ml), and the off-white solid filtered and dried under high vacuum to give the title product (Yield =50 mg).

reactant | 5-(Acetylamino)-4-amino-2,6-anhydro-3,4,5-trideoxy-D-glycero-D-galacto-non-2-enonic acid | 0.689 mmol, 200 mg | C(C)(=O)N[C@@H]1[C@H](C=C(C(=O)O)O[C@H]1[C@H](O)[C@H](O)CO)N | C11H18N2O7
reactant | triethylamine | 0.690 mmol, 0.098 ml | C(C)N(CC)CC | C6H15N
reactant | 2-Methyl-1-nitro-2-thiopseudourea | 0.757 mmol, 103 mg | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
solvent | methanol | 2.7 ml | CO | CH4O
product | 5-(Acetylamino)-4-[[amino(nitroimino)methyl]amino]-2,6-anhydro-3,4,5-trideoxy-D-glycero-D-galacto-non-2-enonic acid | 50 mg | C(C)(=O)N[C@@H]1[C@H](C=C(C(=O)O)O[C@H]1[C@H](O)[C@H](O)CO)NC(=N[N+](=O)[O-])N | C12H19N5O9
